US05242912
a) 7-Bromo-2,3,4,5-tetrahydro-1H-1-benzazepine-9-carboxylic acid benzyl ester
To 7-bromo-2,3,4,5-tetrahydro-1H-1-benzazepine-9-carboxylic acid (8.53 g) dissolved in DMF (80 ml), were added potassium carbonate (13.8 g) and benzyl bromide (4.5 ml) and the mixture was stirred for 2 hours at room temperature. After the insoluble matter was filtered off and the filtrate was concentrated, a mixed liquid of ethyl acetate-benzene (1:1, 400 ml) was added to the residue, and the mixture was washed with water, dried over anhydrous sodium sulfate and then subjected to distilling off the solvent to give the intended compound 11.35 g (99.7%) as brown oily matter.

reactant | 7-bromo-2,3,4,5-tetrahydro-1H-1-benzazepine-9-carboxylic acid | 8.53 g | BrC=1C=C(C2=C(CCCCN2)C1)C(=O)O | C11H12BrNO2
reactant | potassium carbonate | 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 4.5 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
product | 7-Bromo-2,3,4,5-tetrahydro-1H-1-benzazepine-9-carboxylic acid benzyl ester | 11.35 g, 99.7% | C(C1=CC=CC=C1)OC(=O)C1=CC(=CC=2CCCCNC21)Br | C18H18BrNO2
